US08476224B2
To a solution of 4-benzylamino-cyclohexanecarboxylic acid tert-butyl ester (630 mg, 2.180 mmol) in DMF (20 mL) is added t-butyl bromoacetate (1 mL, 6.856 mmol) and Cs2CO3 (1.0 g, 3.069 mmol). The mixture stirs for 2 h. Then H2O (50 mL) is added the mixture is extracted with EtOAc (2×100 mL), dried with sodium sulfate and concentrated. The resulting solid is purified by flash chromatography (gradient elution: 0-20% EtOAc/Hep) which affords 300 mg of 4-(benzyl-tert-butoxycarbonylmethyl-amino)-cyclohexanecarboxylic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.24 (m, 5 H), 1.38 (m, 18 H), 1.86 (m, 4 H), 2.09 (m, 1 H), 3.14 (m, 2 H), 3.71 (m, 2 H), 7.29 (m, 5 H).

reactant | 4-benzylamino-cyclohexanecarboxylic acid tert-butyl ester | 2.180 mmol, 630 mg | C(C)(C)(C)OC(=O)C1CCC(CC1)NCC1=CC=CC=C1 | C18H27NO2
reactant | t-butyl bromoacetate | 6.856 mmol, 1 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Cs2CO3 | 3.069 mmol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(benzyl-tert-butoxycarbonylmethyl-amino)-cyclohexanecarboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)C1CCC(CC1)N(CC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C24H37NO4
